US08283499B2
Synthesis of 2-cyclohexyl-3-hydroxy-1,4-naphthoquinone (Parvaquone) (8)
A mixture of 2,3-dichloro-1,4-naphthoquinone (5gm), cyclohexane carboxylic acid (2.7629 gm) and silver nitrate (2.095 gm) is taken in acetonitrile (60 ml) and the mixture is heated to reflux. Then a solution of ammonium persulphate (12.06 gm) in 77 ml of water is added through a dropping funnel over a period of 1 to 2 hrs. The mixture is refluxed for 4 hrs and cooled in ice for about 1 hr after which it is filtered. Filtrate is kept aside for acetonitrile recovery. The solid is extracted with hot methylene chloride (100 ml×3). Inorganics is kept aside for silver nitrate regeneration. The methylene chloride layer is dried over anhydrous sodium sulphate, concentrated to get light brownish yellow solid. This on crystallization from acetonitrile afforded the title compound as yellow crystals (2.5 gm). 300 MHz NMR of the compound fully agreed with the desired compound

reactant | 2,3-dichloro-1,4-naphthoquinone | 5gm | ClC=1C(C2=CC=CC=C2C(C1Cl)=O)=O | C10H4Cl2O2
reactant | cyclohexane carboxylic acid | 2.7629 gm | C1(CCCCC1)C(=O)O | C7H12O2
reactant | ammonium persulphate | 12.06 gm | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
solvent | water | 77 ml | O | H2O
catalyst | silver nitrate | 2.095 gm | [N+](=O)([O-])[O-].[Ag+]
product | 2-cyclohexyl-3-hydroxy-1,4-naphthoquinone | 2.5 gm | C1(CCCCC1)C=1C(C2=CC=CC=C2C(C1O)=O)=O | C16H16O3
